US06265524B1
400 parts of an aqueous solution of sodium hydrogencarbonate having a pH of 8 were added to 200 parts of diphenyl carbonate, obtained through the decarbonylation reaction of diphenyl oxalate using tetraphenyl phosphonium chloride as a catalyst, and the mixture was heated to 90° C. and stirred for 1 hour to obtain diphenyl carbonate containing 1.3 ppm of hydrolyzable chlorine.

reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | diphenyl carbonate | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
product | diphenyl oxalate | C(C(=O)OC1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C14H10O4
